US05154918
A mixture of 5 g of cysteamine and 6 g of succinic anhydride is stirred under an inert atmosphere at a temperature of about 100° C. The transformation of the starting products is practically total one-half hour after the beginning of the reaction. The mixture is dissolved in 50 cm3 of water to which are added, with stirring, 5 g of sulfonic acid resin and 3 g of zinc powder to transform the disulfide present in the mixture. The resin is removed by filtration and the filtrate is concentrated under reduced pressure. After drying, 9 g of N-(2-mercapto ethyl) succinamic acid are obtained whose characteristics are identical to those of the acid obtained following the procedure of section (a), above.

reactant | cysteamine | 5 g | NCCS | C2H7NS
reactant | succinic anhydride | 6 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | water | 50 cm3 | O | H2O
catalyst | zinc | 3 g | [Zn] | Zn
product | N-(2-mercapto ethyl) succinamic acid | 9 g | SCCNC(CCC(=O)O)=O | C6H11NO3S
